US07977322B2
5-Chloromethyl-2,2-difluoro-benzo[1,3]dioxole Thionyl chloride (45 g, 38 mmol) was slowly added to a solution of (2,2-difluoro-benzo[1,3]dioxol-5-yl)-methanol (7.2 g, 38 mmol) in dichloromethane (200 mL) at 0° C. The resulting mixture was stirred overnight at room temperature and then evaporated to dryness. The residue was partitioned between an aqueous solution of saturated sodium bicarbonate (100 mL) and dichloromethane (100 mL). The separated aqueous layer was extracted with dichloromethane (150 mL) and the combined organic layers were dried over sodium sulfate, filtrated, and evaporated to dryness to give crude 5-chloromethyl-2,2-difluoro-benzo[1,3]dioxole (4.4 g) which was used directly in the next step.

reactant | (2,2-difluoro-benzo[1,3]dioxol-5-yl)-methanol | 38 mmol, 7.2 g | FC1(OC2=C(O1)C=CC(=C2)CO)F | C8H6F2O3
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-chloromethyl-2,2-difluoro-benzo[1,3]dioxole | 4.4 g | ClCC1=CC2=C(OC(O2)(F)F)C=C1 | C8H5ClF2O2
